US04973699
A mixture of 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl) acetic acid (syn isomer) (255 mg) and conc. hydrochloric acid (0.21 ml) in methanol (1.3 ml) was stirred at 30° to 32° C. for 1.5 hours. The mixture was concentrated in vacuo, triturated with diisopropyl ether, diethyl ether and ethyl acetate in turn. The resultant solid was dried over phosphorus pentoxide to give 2-(2-aminothiazol-4-yl)-2-cyclopropyloxyiminoacetic acid hydrochloride (syn isomer) (265 mg).

reactant | 2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl) acetic acid | 255 mg | C1(CC1)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C9H9N3O4S
reactant | hydrochloric acid | 0.21 ml | Cl | ClH
solvent | methanol | 1.3 ml | CO | CH4O
product | 2-(2-aminothiazol-4-yl)-2-cyclopropyloxyiminoacetic acid hydrochloride | 265 mg | Cl.NC=1SC=C(N1)C(C(=O)O)=NOC1CC1 | InChI=1S/C8H9N3O3S.ClH/c9-8-10-5(3-15-8)6(7(12)13)11-14-4-1-2-4;/h3-4H,1-2H2,(H2,9,10)(H,12,13);1H
